* USB-Isolated 3-Op-Amp Instrumentation Amplifier (LM741 Classic)
* G_buf = 1 + 2*Rf/Rg = 1 + 2*47k/1k = 95
* G_diff = R6/R4 = 10k/10k = 1
* G_total = 95
* Generated by kicad_pipeline.py

* Dual power supply (USB-isolated via DC-DC)
VCC VCC 0 12
VEE VEE 0 -12

* Differential input signal: +/-5mV @ 200Hz
VINP INP 0 SINE(0 5m 200)
VINN INN 0 SINE(0 -5m 200)

* Stage 1: Input buffers with gain
* U1 buffer (+)
XU1 INP FB1 VCC VEE BUF1 LM741_NS
R1 BUF1 FB1 47k
* U2 buffer (-)
XU2 INN FB2 VCC VEE BUF2 LM741_NS
R2 BUF2 FB2 47k
* Gain-set resistor
R3 FB1 FB2 1k


* Stage 2: Difference amplifier
R4 BUF1 DIFFP 10k
R5 BUF2 DIFFN 10k
R6 VOUT_INT DIFFP 10k
R7 DIFFN 0 10k
XU3 DIFFN DIFFP VCC VEE VOUT_INT LM741_NS

* Output coupling + load
C1 VOUT_INT OUT 10u
R8 OUT 0 10k

* Model
.SUBCKT LM741_NS    1   2  99  50  28
*
*Features:
*Improved performance over industry standards
*Plug-in replacement for LM709,LM201,MC1439,748
*Input and output overload protection
*
****************INPUT STAGE**************
*
IOS 2 1 20N
*^Input offset current
R1 1 3 250K
R2 3 2 250K
I1 4 50 100U
R3 5 99 517
R4 6 99 517
Q1 5 2 4 QX
Q2 6 7 4 QX
*Fp2=2.55 MHz
C4 5 6 60.3614P
*
***********COMMON MODE EFFECT***********
*
I2 99 50 1.6MA
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 1E-3 1
*Input offset voltage.^
R8 99 49 40K
R9 49 50 40K
*
*********OUTPUT VOLTAGE LIMITING********
V2 99 8 1.63
D1 9 8 DX
D2 10 9 DX
V3 10 50 1.63
*
**************SECOND STAGE**************
*
EH 99 98 99 49 1
G1 98 9 5 6 2.1E-3
*Fp1=5 Hz
R5 98 9 95.493MEG
C3 98 9 333.33P
*
***************POLE STAGE***************
*
*Fp=30 MHz
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 5.3052E-15
*
*********COMMON-MODE ZERO STAGE*********
*
*Fpcm=300 Hz
G4 98 16 3 49 3.1623E-8
L2 98 17 530.5M
R13 17 16 1K
*
**************OUTPUT STAGE**************
*
F6 50 99 POLY(1) V6 450U 1
E1 99 23 99 15 1
R16 24 23 25
D5 26 24 DX
V6 26 22 0.65V
R17 23 25 25
D6 25 27 DX
V7 22 27 0.65V
V5 22 21 0.18V
D4 21 15 DX
V4 20 22 0.18V
D3 15 20 DX
L3 22 28 100P
RL3 22 28 100K
*
***************MODELS USED**************
*
.MODEL DX D(IS=1E-15)
.MODEL QX NPN(BF=625)
*
.ENDS

* Simulation
.tran 1u 20m

.control
run
wrdata usb_ina_results.txt V(INP) V(OUT) V(BUF1) V(BUF2) V(VOUT_INT)
quit
.endc

.end
